*SPICE netlist created from verilog structural netlist module counter_board by vlog2Spice (qflow)
*This file may contain array delimiters, not for use in simulation.

.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice

.subckt counter_board VPWR VGND clock_i reset_n_i enable_i counter_value_o[0] counter_value_o[1]
+ counter_value_o[2] counter_value_o[3] 

X_07_ _04_ counter_value_o[1] counter_value_o[0] enable_i VPWR VGND sg13g2_nand3_1
X_08_ _00_ counter_value_o[2] _04_ VPWR VGND sg13g2_xnor2_1
X_09_ _05_ counter_value_o[2] counter_value_o[1] counter_value_o[0] enable_i VPWR 
+ VGND
+ sg13g2_nand4_1
X_10_ _01_ counter_value_o[3] _05_ VPWR VGND sg13g2_xnor2_1
X_11_ _06_ counter_value_o[0] enable_i VPWR VGND sg13g2_nand2_1
X_12_ _02_ counter_value_o[1] _06_ VPWR VGND sg13g2_xnor2_1
X_13_ _03_ counter_value_o[0] enable_i VPWR VGND sg13g2_xor2_1
X\counter_0.n21[0]$_DFFE_PN0P_  counter_value_o[0] clock_i _03_ reset_n_i VPWR VGND sg13g2_dfrbpq_1
X\counter_0.n21[1]$_DFFE_PN0P_  counter_value_o[1] clock_i _02_ reset_n_i VPWR VGND sg13g2_dfrbpq_1
X\counter_0.n21[2]$_DFFE_PN0P_  counter_value_o[2] clock_i _00_ reset_n_i VPWR VGND sg13g2_dfrbpq_1
X\counter_0.n21[3]$_DFFE_PN0P_  counter_value_o[3] clock_i _01_ reset_n_i VPWR VGND sg13g2_dfrbpq_1

.ends
.end
